US03965257
4' -Bromo-4-[ 4-(α -hydroxy-α -phenylbenzyl)piperidino] -butyrophenone hydrochloride
A mixture of 45.4 g (0.17 mole) of α,α -diphenyl-4-piperidinemethanol, 49.99 g (0.19 mole) of 4'-bromo-4-chlorobutyrophenone, 30 g (0.3 mole) of potassium bicarbonate and 700 ml of toluene was refluxed for 3 days. Upon cooling to room temperature the mixture was filtered, and the filtrate was cooled and treated with ethereal HCl then ether. The resulting solid was washed with ether, dried, and dissolved in 2 liters of methanol. The solution was treated with charcoal, filtered, and concentrated to a 500 ml volume. Isopropyl alcohol was added to the concentrate and heated to a vapor temperature of 73°C. The concentrate was cooled to room temperature, and a product crystallized which was washed with isopropyl alcohol then ether and recrystallized from isopropyl alcohol-water, and isopropyl alcohol to give the title compound, M.P. 251°-252.5° C.

reactant | α,α -diphenyl-4-piperidinemethanol | 0.17 mole, 45.4 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 4'-bromo-4-chlorobutyrophenone | 0.19 mole, 49.99 g | BrC1=CC=C(C=C1)C(CCCCl)=O | C10H10BrClO
reactant | potassium bicarbonate | 0.3 mole, 30 g | C([O-])(O)=O.[K+]
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 4' -Bromo-4-[ 4-(α -hydroxy-α -phenylbenzyl)piperidino] -butyrophenone hydrochloride | Cl.BrC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C28H30BrNO2.ClH/c29-26-15-13-22(14-16-26)27(31)12-7-19-30-20-17-25(18-21-30)28(32,23-8-3-1-4-9-23)24-10-5-2-6-11-24;/h1-6,8-11,13-16,25,32H,7,12,17-21H2;1H
